US08865699B2
1.3 4-Bromo-2-isopropoxy-1-methoxybenzene
To a solution of 5-bromo-2-methoxyphenol (0.200 g, 1 mmol) in DMF (4 mL) was added potassium carbonate (0.209 g, 1.5 mmol) and isopropyliodide (120 μL, 1.2 mmol), the reaction mixture was stirred at room temperature (20° C.) for 3 h. After this time the crude reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (2×100 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford a yellow oil (200 mg, 0.81 mmol, 82%). No further purification was required.

reactant | 5-bromo-2-methoxyphenol | 1 mmol, 0.200 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
reactant | potassium carbonate | 1.5 mmol, 0.209 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyliodide | 1.2 mmol, 120 μL | C(C)(C)I | C3H7I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2-isopropoxy-1-methoxybenzene | 0.81 mmol, 200 mg, 82% | BrC1=CC(=C(C=C1)OC)OC(C)C | C10H13BrO2
